US08859573B2
5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinecarbonitrile
The title compound was prepared by a procedure similar to that described for D1 starting from 5-fluoro-2-pyridinecarbonitrile and 4-chloro-3-(trifluoromethyl)phenol. LC-MS (ESI): m/z 299 [M+H]+; 3.59 min (ret time).

reactant | 5-fluoro-2-pyridinecarbonitrile | FC=1C=CC(=NC1)C#N | C6H3FN2
reactant | 4-chloro-3-(trifluoromethyl)phenol | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
product | 5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinecarbonitrile | ClC1=C(C=C(C=C1)OC=1C=CC(=NC1)C#N)C(F)(F)F | C13H6ClF3N2O
